US09062055B2
Step 8. tert-Butyl {1-[3-chloro-1-(3-fluorophenyl)-1H-indol-2-yl]ethyl}carbamate
A solution of N-chlorosuccinimide (0.015 g, 0.11 mmol) in DMF (0.1 mL) was added dropwise to an ice-cooled solution of tert-butyl {1-[1-(3-fluorophenyl)-1H-indol-2-yl]ethyl}carbamate (35 mg, 0.099 mmol) in N,N-dimethylformamide (0.5 mL, 6 mmol). The resulting mixture was allowed to warm to room temperature and stirred for an additional 4 hours. The mixture was then diluted with water and then extracted with EtOAc. The combined organic layers were dried over MgSO4, concentrated, and purified on silica gel (eluting with 0-10% EtOAc in hexane) to give the desired product (36 mg, 94%).

reactant | N-chlorosuccinimide | 0.11 mmol, 0.015 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | tert-butyl {1-[1-(3-fluorophenyl)-1H-indol-2-yl]ethyl}carbamate | 0.099 mmol, 35 mg | FC=1C=C(C=CC1)N1C(=CC2=CC=CC=C12)C(C)NC(OC(C)(C)C)=O | C21H23FN2O2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 6 mmol, 0.5 mL | CN(C=O)C | C3H7NO
product | tert-Butyl {1-[3-chloro-1-(3-fluorophenyl)-1H-indol-2-yl]ethyl}carbamate | 36 mg, 94% | ClC1=C(N(C2=CC=CC=C12)C1=CC(=CC=C1)F)C(C)NC(OC(C)(C)C)=O | C21H22ClFN2O2
